US06225330B1
9-Fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine:
6-Bromo-3-fluoro-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one (1.0 g, 3.89 mmole) was mixed with thiourea (355 mg, 4.66 mmole) in 20 ml of ethanol and heated at reflux temperature for 16 hours. The reaction mixture was cooled and filtered to give a solid (m.p. 270° C.). The filtrate was concentrated and then partitioned between ethyl acetate and saturated sodium carbonate solution. The organic extract was concentrated and chromatographed (silica, ethyl acetate/hexanes) to give the desired product as a yellow solid (m.p. 142-144° C., 34%).

reactant | 6-Bromo-3-fluoro-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | 3.89 mmole, 1.0 g | BrC1C(C2=C(CCC1)C=CC(=C2)F)=O | C11H10BrFO
reactant | thiourea | 4.66 mmole, 355 mg | NC(=S)N | CH4N2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 9-Fluoro-5,6-dihydro-4H-benzo[6,7]cyclohepta[d][1,3]thiazol-2-amine | FC1=CC2=C(CCCC3=C2N=C(S3)N)C=C1 | C12H11FN2S
